US04369188
6-Bromo-2-oxo-benz[cd]indole-1(2H)-acetic Acid, Ethyl Ester (II: Alk=ethyl, R2 =H and R3 =Br)
Sodium hydride (0.63 g, 0.0262 mol; 1.26 g of a 50% mineral oil suspension) was added portionwise with stirring to a solution of 6-bromo-benz[cd]indol-2(1H)-one (6.5 g, 0.0262 mol) in dry dimethylformamide (20 mL) allowing hydrogen evolution to cease before adding the next portion of hydride. To the cooled (ice-bath), stirred solution was added ethyl chloroacetate (3.53 g, 3.17 mL, 0.0288 mol) and the mixture was refluxed for 3 hr. The solvent was evaporated in vacuo and the residue was triturated with water (the mixture was stirred overnight at room temperature). The precipitate was separated by filtration, washed with water and hexane (10 mL; to remove mineral oil), dried (8.4 g) and crystallized from ethanol to give the title compound (5.8 in two crops): mp 128°-130° C.; Anal. Calcd for C15H12BrNO3 : C, 53.91% H, 3.62% N, 4.19%; Found: C, 53.58% H, 3.75% N, 4.26%; IR (CHCl3) 1744, 1708, 1629, 1602, and 1194 cm-1 ; UV max (methanol) 339 (ε5600), 323 (2800), 289 (sH, 4650), 279 (6200), and 258 nm (18,600);, and NMR (CDCl3)δ 1.25 (t, 3H), 4.20 (q, 2H), 4.62 (s, 2H), 6.63 (d, 1H), 7.60 (d, 1H), 7.77 (d, 1H), 8.07 (m, 2H).

reactant | Sodium hydride | [H-].[Na+]
reactant | 6-bromo-benz[cd]indol-2(1H)-one | 0.0262 mol, 6.5 g | BrC=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C11H6BrNO
reactant | hydrogen | [H][H] | H2
reactant | hydride | [H-]
reactant | ethyl chloroacetate | 0.0288 mol, 3.17 mL, 3.53 g | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-2-oxo-benz[cd]indole-1(2H)-acetic Acid, Ethyl Ester | BrC=1C=2C3=C(C(N(C3=CC1)CC(=O)OCC)=O)C=CC2 | C15H12BrNO3
